US08168783B2
tert-butyl(trans-4-piperidin-1-ylcyclohexyl)carbamate
Trans-4-tert-butoxycarbonylamino-aminocyclohexane (1 g) and potassium carbonate (1.3 g) were suspended in ethanol (20 mL), and then 1,5-dibromopentane (1.07 g) was added thereto. The reaction solution was stirred at 80° C. for 48 hours. After the reaction solution was cooled to room temperature, the solvent was concentrated under reduced pressure. The residue was dissolved in water (50 mL). The aqueous layer was extracted twice with dichloromethane (50 mL). The combined organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. After removing the anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by silica gel chromatography (ethyl acetate: 10%-saturated aqueous ammonia-methanol=1:0→10:1) to obtain the title compound (492 mg) having the following physical properties.

reactant | Trans-4-tert-butoxycarbonylamino-aminocyclohexane | 1 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)N | C11H22N2O2
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-dibromopentane | 1.07 g | BrCCCCCBr | C5H10Br2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | tert-butyl(trans-4-piperidin-1-ylcyclohexyl)carbamate | 492 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)N1CCCCC1)=O | C16H30N2O2
